US04113740
A solution of 0.405g (1.6mmoles) of (S)-(+)-5-(3,4-dihydroxy-3-methyl-1-butyl)-2,3,6-trimethyl-p-benzoquinone in 20 ml of ethyl acetate was stirred in an atmosphere of hydrogen, in the presence of 0.04g of 5% by weight palladium on 95% by weight charcoal until H2 uptake ceased (ca. 1hr; 38 ml H2 absorbed). The catalyst was filtered and the filtrate was concentrated giving 0.41 g of (S)-5-(3,4-dihydroxy-3-methyl-1-butyl)-2,3,6-trimethylhydroquinone as a tan solid, mp 124°-131.5°.

reactant | (S)-(+)-5-(3,4-dihydroxy-3-methyl-1-butyl)-2,3,6-trimethyl-p-benzoquinone | 1.6mmoles, 0.405g | O[C@@](CCC=1C(C(=C(C(C1C)=O)C)C)=O)(CO)C | C14H20O4
reactant | hydrogen | [H][H] | H2
reactant | charcoal | C | CH4
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium | [Pd] | Pd
product | (S)-5-(3,4-dihydroxy-3-methyl-1-butyl)-2,3,6-trimethylhydroquinone | 0.41 g | O[C@@](CCC=1C(=C(C(=C(O)C1C)C)C)O)(CO)C | C14H22O4
